US03968116
6-AMINO-1-HYDROXY-2-(TRIFLUOROMETHYL)-1H-IMIDAZO-(4,5-b)PYRIDINE
6-Nitro-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)-pyridine (4.9 grams) was mixed with 100 milliliters of ethanol and 3 milliliters of concentrated hydrochloric acid, and 1 gram of 5 percent palladium or carbon was added to the mixture. The mixture was hydrogenated to a 3 mole-equivalent uptake of hydrogen. The reaction mixture was then filtered and evaporated, yielding a gummy solid residue which was taken up in 150 milliliters of water and used directly in the reaction reported in the following example.

reactant | 6-Nitro-1-hydroxy-2-(trifluoromethyl)-1H-imidazo(4,5-b)-pyridine | 4.9 grams | [N+](=O)([O-])C=1C=C2C(=NC1)N=C(N2O)C(F)(F)F | C7H3F3N4O3
reactant | ethanol | 100 milliliters | C(C)O | C2H6O
reactant | hydrochloric acid | 3 milliliters | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | water | 150 milliliters | O | H2O
catalyst | palladium | 1 gram | [Pd] | Pd
product | 6-AMINO-1-HYDROXY-2-(TRIFLUOROMETHYL)-1H-IMIDAZO-(4,5-b)PYRIDINE | NC=1C=C2C(=NC1)N=C(N2O)C(F)(F)F | C7H5F3N4O
